2151-01-18 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Peanut
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 114 (112 - 119) bpm
   BP: 112/61(72) {112/53(69) - 118/66(76)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,807 mL
   PO:
             TF:
   IVF:
   1,812 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    890 mL
   Urine:
   890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    922 mL
   Respiratory support
   O2 Delivery Device: None, CPAP mask
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   496 K/uL
   8.7 g/dL
   330 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   15 mg/dL
   103 mEq/L
   135 mEq/L
   28.8 %
   14.1 K/uL
        [image002.jpg]
                             [**2151-1-18**]  12:46 AM
                             [**2151-1-18**]  05:22 AM
   WBC
   14.1
   Hct
   28.8
   Plt
   496
   Cr
   1.0
   0.8
   TropT
   <0.01
   Glucose
   410
   330
   Other labs: CK / CKMB / Troponin-T:60//<0.01, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-1-18**] 01:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-18 09:58:00 Physician Attending Progress Note
Chief Complaint: hyperglycemic emergency, asthma exacerbation
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted to MICU
   Insulin gtt with some response but BS still in 300s
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Peanut
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Other medications:
   insulin, pregabalin, montelukast, mvi, vit D, calcium carbonate, asa,
   H2B, PPI, lisinopril, lidoderm, advair 250, amitry, pred 60, SQH, bowel
   reg, bronchodilators,statin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-18**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 109 (109 - 119) bpm
   BP: 122/68(80) {112/53(69) - 122/73(83)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             2,426 mL
   PO:
             TF:
   IVF:
   2,426 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    890 mL
   Urine:
   890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,540 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffuse), moving
   reasonable air.  Left-sided discomfort is clearly reproducible with
   palpation and coughing.
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   496 K/uL
   330 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   15 mg/dL
   103 mEq/L
   135 mEq/L
   28.8 %
   14.1 K/uL
        [image002.jpg]
                             [**2151-1-18**]  12:46 AM
                             [**2151-1-18**]  05:22 AM
   WBC
   14.1
   Hct
   28.8
   Plt
   496
   Cr
   1.0
   0.8
   TropT
   <0.01
   Glucose
   410
   330
   Other labs: CK / CKMB / Troponin-T:60//<0.01, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   41-year-old woman with diabetes, hypertension, CVA, and severe asthma
   presented with respiratory distress.  Received steroids and now with
   severe hyperglycemia requiring insulin gtt.
   Hyperglycemic emergency
   Continue insulin gtt for now
   Appreciate [**Last Name (un) 294**] recs
   Will discuss with [**Last Name (un) 294**] about SQ insulin dosing
   Asthma exacerbation
   Continue prednisone, bronchodilators, and home meds
   Agree with prior assessment that PE seems unlikely, and this is c/w
   prior exacerbations when PE has been excluded.
   OSA
   Nocturnal BiPAP
   Discussed with pt.  PCP [**Name Initial (PRE) 11120**].  Send note to her pulmonologist.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: resume oral diet when FSBS < 250
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-1-18**] 01:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2B + PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2151-01-19 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Recheck lytes QD
   - Finger sticks: When below 250 can start SQ, let her eat, overlap drip
   for 1 hour
   - Nebs, Prednisone, Mag for wheezing (asthma w/ h/o intubations, COPD)
   - CPAP o/n (for OSA)
   - [**Last Name (un) 294**] recs: lantus 180 units -> turn drip off 4 hours later. Start
   sliding scale. Tomorrow add NPH 240 units am and 40 units HS. For all
   doses > 100 units split the dose and inject at different sites. [**Last Name (un) 294**]
   fellow pager 3-2834. ** Patient > 300 therefore continued on insulin
   drip and increased to 36 units/hr
   - Given Fluconazole 150 mg po x 1 for yeast infection symptoms
   - For persistently high sugars in 400s, in consult with [**Last Name (un) 294**],
   routinely upped her Insulin gtt until at 66U/hour at 20:30.
   - Insulin gtt at 76U/hour at 23:30 for sugars just hovering under 400
   as [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**]
   - Insulin gtt at 20U/hour at 0400 for sugar of 120
   - Insulin gtt off, patient eating, BS 66 at 0600
   - Plan: Drip off. Eating. After can have full breakfast, give NPH doses
   and steroids. Continue q1 hr FS.
   History obtained from Patient
   Allergies:
   History obtained from PatientIodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Peanut
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Wheeze
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2151-1-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 100 (93 - 123) bpm
   BP: 116/74(83) {94/46(58) - 147/87(96)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,756 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  4,756 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    620 mL
   Urine:
                                                                  3,700 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,056 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   625 K/uL
   9.2 g/dL
   53 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   11 mg/dL
   109 mEq/L
   140 mEq/L
   30.4 %
   15.4 K/uL
        [image002.jpg]
                             [**2151-1-18**]  12:46 AM
                             [**2151-1-18**]  05:22 AM
                             [**2151-1-18**]  03:04 PM
                             [**2151-1-18**]  03:19 PM
                             [**2151-1-19**]  06:00 AM
   WBC
   14.1
   15.7
   15.4
   Hct
   28.8
   27.7
   30.4
   Plt
   496
   600
   625
   Cr
   1.0
   0.8
   0.9
   0.7
   TropT
   <0.01
   Glucose
   [**Telephone/Fax (3) 11145**]3
   Other labs: CK / CKMB / Troponin-T:60//<0.01, Ca++:8.5 mg/dL, Mg++:2.3
   mg/dL, PO4:3.0 mg/dL
   Imaging: [**1-17**] ECG: Sinus rhythm. Left ventricular hypertrophy. Poor R
   wave progression could be due to left ventricular hypertrophy.
   Non-specific inferolateral ST-T wave changes could be due to left
   ventricular hypertrophy and/or myocardial ischemia. Compared to the
   previous tracing of [**2150-11-9**] sinus tachycardia is absent and T wave
   flattening is more pronounced in the inferior leads.
   [**1-17**] CXR: Low lung volumes with mild bibasilar atelectasis. No focal
   consolidation seen.
   Assessment and Plan
   ASSESSMENT/PLAN: 41 year old female with asthma, DM2, HTN, vertigo,
   depression, CVA, admitted for shortness of breath and chest pain [**12-29**]
   asthma exacerbation who developed hyperglycemia in the setting of
   missing her insulin while in the ED, receiving steroids and her insulin
   underdosed on the floor, transferred to the MICU for insulin gtt.
   .
   # Hyperglycemia: [**12-29**] steroids and missed/underdosing of insulin
   previously this admission. Remains difficult to manage blood sugars in
   MICU over the course of yesterday.
   -Follow-up [**Last Name (un) 294**] recs from this morning: ?Will give Lantus 180 units,
   turn drip off four hours later and start sliding scale. Tomorrow add
   NPH 240 units am and 40 units HS. For all doses > 100 units split the
   dose and inject at different sites
   -recheck lytes (though no gap) tomorrow
   -if no gap develops, hope to transition back to interval dosing of
   insulin as [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**] recs (see above)
   - Longstanding OSA likely has resulted in hyperadrenergic state
   hypercortisol levels
 insulin resistance. Encourage strict compliance
   with NPPV, which may aide with blood sugar management
   .
   # Shortness of Breath: Likely multifactorial, consistent with previous
   asthma/COPD exacerbations (wheezing, decreased peak flow, improvement
   with nebs and steroids) and patient with notable restrictive component
   to her SBO due to obesity and deconditioning.  [**Month (only) 11**] also have evolving
   pulm htn from OSA and not wearing bipap at home. No signs of PNA (CXR
   unchanged, no cough, fever, white count). CHF unlikely (NL echo [**2149**],
   no edema or JVD, no CXR evidence).  PE remains a possibility given her
   tachy and immobilization and recent initiation of Xolair. D dimer
   checked and was 557, which is similar or less than three prior
   hospitalizations in the past 15 months with similar presentations. Each
   time, D-Dimer obtained, D-Dimer was mildly positive, and pt was ruled
   out for PE by negative V/Q scan, treated for Asthma exacerbation and
   improved. Given this hx, PE is unlikely, but will consider V Q scan if
   patient does not improve tonight.
   -Continue Prednisone 60mg PO daily for presumed COPD exacerbation; will
   discuss appropriate taper with [**Last Name (un) 294**]
   -continue nebs with Albuterol, Ipratropium
   -continue home inhalers with anti-leukotriene, and Advair
   -NPPV overnight, encourage compliance
   .
   # Chest Pain: Reproducible with palpation so likely MSK/non-cardiac
   chest pain. Unlikely ACS as no EKG changes, CE negative x 3. GI related
   pain also possible, but unlikely reflux given pt on Omeprazole and
   Ranitidine at home. Could be constipation.
   - Morphine 15mg PO Q6H PRN pain
   - continue home dose Omeprazole and Ranitidine.
   .
   #Tachycardia: Likely [**12-29**] anxiety, pain and inhalers. Less likely PE.
   Also has baseline tachycardia, 100-110 range at clinic visits in OMR.
   -IVF, glucose control
   .
   # Hypertension: Patient normotensive on arrival to the ICU.
   -continue home lisinopril
   .
   #Peripheral Neuropathy:
   -continue gabapentin
   -continue Amitriptyline
   -continue lidocaine patch
   .
   #Spinal Stenosis:  Seen as outpatient by pain clinic with recent
   steroid injection in Januuary.
   .
   #HLD:
   -continue simvastatin
   .
   #Depression:
   -continue Doxepin
   -SW consult.
   .
   #Vertigo:
   -prn diazepam per outpatient provider
   .
   #GERD:
   -continue ranitidine and omeprazole
   .
   # Constipation: Ms. [**Known lastname 1309**] reports 2 days of no BMs. Normally has 2
   BMs/day.
   -continue increased bowel regimen with increased narcotic use.
   -Docusate 200mg PO BID
   -Senna 1 tab [**Hospital1 **] PRN constipation
   .
   #Urinary Rentention: Patient reported urinary retention in the ED so a
   Foley was placed.  Unclear if a bladder scan was done.  U/A negative.
   -continue foley while in ICU
   .
   #OSA: Patient reports haviong CPAP at home though not usually wearing
   it and had refused it on the floor.
   -autoset CPAP, per respiratory.
   -continue nebs tonight, if signs of hypercarbia, apnea will consider
   asking the patient to wear her CPAP again
   .
   # Fxnal Status: Pt wheel chair bound with limited mobility at baseline.
   -PT consult
   # FEN: IVF as above, replete lytes PRN, NPO until better controlled on
   insuling gtt, Promethazine 25mg PO Q6H PRN nausea , calcium and vitamin
   D
   # Access: PIV
   # PPx: SQH and pneumoboots, Bowel regimen as above, Morphine as above
   #. Communication - Brother [**Name (NI) **] [**Name (NI) 1309**] [**Telephone/Fax (1) 11116**].
   #. Code - Full code
   #. Dispo - Pending insulin control and discussion with [**Last Name (un) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-1-18**] 01:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-20 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Found sneaking [**Doctor Last Name **] Filet O' Fish but denies consumption. BS 350
   at 3pm so given 50 Humalog. Then BS 450 after snack. Consulted [**Last Name (un) 294**]
   who rec NPH 20 units qHS and 160 Humalog split into [**12-30**] doses and
   injected diff sites
   - Code Purpled for agitation, anger re: NPO. Given valium 5 mg PO x1
   and morphine, compazine
   Allergies:
   Iodine
   Unknown; Diffic
   Codeine
   Unknown; Hives;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; tongue
   Ketorolac
   Rash;
   Oxycodone
   Rash; Wheezing;
   Hydromorphone Hcl
   Hives;
   Peanut
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-19**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-20**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 97 (97 - 115) bpm
   BP: 132/75(87) {89/51(54) - 133/110(116)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    458 mL
                  PO:
                  TF:
   IVF:
                                                                    458 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    380 mL
   Urine:
                                                                  3,910 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,452 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   585 K/uL
   8.9 g/dL
   163 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   137 mEq/L
   28.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-1-18**]  12:46 AM
                             [**2151-1-18**]  05:22 AM
                             [**2151-1-18**]  03:04 PM
                             [**2151-1-18**]  03:19 PM
                             [**2151-1-19**]  06:00 AM
                             [**2151-1-20**]  04:00 AM
   WBC
   14.1
   15.7
   15.4
   15.3
   Hct
   28.8
   27.7
   30.4
   28.8
   Plt
   496
   600
   625
   585
   Cr
   1.0
   0.8
   0.9
   0.7
   0.8
   TropT
   <0.01
   Glucose
   [**Telephone/Fax (3) 11145**]3
   163
   Other labs: CK / CKMB / Troponin-T:60//<0.01, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   41 year old female with asthma, DM2, HTN, vertigo, depression, CVA,
   admitted for shortness of breath and chest pain [**12-29**] asthma exacerbation
   who developed hyperglycemia in the setting of missing her insulin while
   in the ED, receiving steroids and her insulin underdosed on the floor,
   transferred to the MICU for insulin gtt and closer blood sugar control
   .
   # Hyperglycemia: [**12-29**] steroids and missed/underdosing of insulin
   previously this admission. Remains with difficult to manage blood
   sugars in MICU.
   -Follow-up [**Last Name (un) 294**] recs from this morning: Gave NPH fixed dose before
   bed
   -If no gap develops, hope to transition back to regular medicine floor
   - Longstanding OSA likely has resulted in hyperadrenergic state
   hypercortisol levels
 insulin resistance. Encourage strict compliance
   with NPPV, which may aide with blood sugar management
   .
   # Shortness of Breath: Likely multifactorial, consistent with previous
   asthma/COPD exacerbations (wheezing, decreased peak flow, improvement
   with nebs and steroids) and patient with notable restrictive component
   to her SBO due to obesity and deconditioning.  [**Month (only) 11**] also have evolving
   pulm htn from OSA and not wearing bipap at home. No signs of PNA (CXR
   unchanged, no cough, fever, white count). CHF unlikely (NL echo [**2149**],
   no edema or JVD, no CXR evidence).  PE remains a possibility given her
   tachy and immobilization and recent initiation of Xolair. D dimer
   checked and was 557, which is similar or less than three prior
   hospitalizations in the past 15 months with similar presentations. Each
   time, D-Dimer obtained, D-Dimer was mildly positive, and pt was ruled
   out for PE by negative V/Q scan, treated for Asthma exacerbation and
   improved. Given this hx, PE is unlikely, but will consider V Q scan if
   patient does not improve tonight.
   -Continue Prednisone 60mg PO daily for presumed COPD exacerbation (Day
   2 of Pred 60, Day 4 of steroids); will discuss appropriate taper with
   [**Last Name (un) 294**]
   -continue nebs with Albuterol, Ipratropium
   -continue home inhalers with anti-leukotriene, and Advair
   -NPPV overnight, encourage compliance
   .
   # Chest Pain: Reproducible with palpation so likely MSK/non-cardiac
   chest pain. Unlikely ACS as no EKG changes, CE negative x 3. GI related
   pain also possible, but unlikely reflux given pt on Omeprazole and
   Ranitidine at home. Could be constipation. Has resolved in the ICU.
   - Morphine 15mg PO Q6H PRN pain
   - Continue home dose Omeprazole and Ranitidine.
   .
   #Tachycardia: Likely [**12-29**] anxiety, pain and inhalers. Less likely PE.
   Also has baseline tachycardia, 100-110 range at clinic visits in OMR.
   -Glucose control
   .
   # Hypertension: Patient normotensive on arrival to the ICU.
   -continue home lisinopril
   .
   #Peripheral Neuropathy:
   -continue gabapentin
   -continue Amitriptyline
   -continue lidocaine patch
   .
   #Spinal Stenosis:  Seen as outpatient by pain clinic with recent
   steroid injection in Januuary.
   .
   #HLD:
   -continue simvastatin
   .
   #Depression:
   -continue Doxepin
   -SW consult.
   .
   #Vertigo:
   -prn diazepam per outpatient provider
   .
   #GERD:
   -continue ranitidine and omeprazole
   .
   #Urinary Rentention: Patient reported urinary retention in the ED so a
   Foley was placed.  Unclear if a bladder scan was done.  U/A negative.
   -continue foley while in ICU
   .
   #OSA: Patient reports haviong CPAP at home though not usually wearing
   it and had refused it on the floor.
   -autoset CPAP, per respiratory.
   -continue nebs
   .
   # Fxnal Status: Pt wheel chair bound with limited mobility at baseline.
   -PT consult
   # FEN: IVF as above, replete lytes PRN, NPO until better controlled on
   insuling gtt, Promethazine 25mg PO Q6H PRN nausea , calcium and vitamin
   D
   # Access: PIV
   # PPx: SQH and pneumoboots, Bowel regimen as above, Morphine as above
   #. Communication - Brother [**Name (NI) **] [**Name (NI) 1309**] [**Telephone/Fax (1) 11116**].
   #. Code - Full code
   #. Dispo - Pending insulin control and discussion with [**Last Name (un) **]
 INEFFECTIVE COPING
 HYPERGLYCEMIA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-1-18**] 01:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: